* source P1_STAB_TENS
V_V1         N00343 0 27V
D_D1         0 VREF BZX84-C5V6 
Q_Q1         N00489 VREF N00192 QBC846B 
Q_Q2         N00192 N00192 N00393 QBC846B 
Q_Q3         N00168 N00192 N00397 QBC846B 
Q_Q4         N00401 VREF N00168 QBC846B 
Q_Q5         N00423 N01027 N00168 QBC846B 
R_R1         N00489 N00343  3.3k TC=0,0 
R_R2         0 N00393  1k TC=0,0 
R_R3         0 N00397  1k TC=0,0 
R_R4         N00405 N00343  220 TC=0,0 
R_R5         N00427 N00343  220 TC=0,0 
Q_Q6         N00401 N00401 N00405 QBC856B 
Q_Q7         N00423 N00401 N00427 QBC856B 
Q_Q8         N00343 N00423 N00640 QBC846B 
R_Rz         VREF N00343  5.6k TC=0,0 
R_Rz1         VREF N00343  5.6k TC=0,0 
X_Pout         N01001 N01027 N01005 POT PARAMS: SET=1 VALUE=5k
R_R11         N01315 N01311  1 TC=0,0 
R_R12         OUT N01315  1 TC=0,0 
Q_Q10         N00423 N01311 OUT QBC846B 
R_RL1         N02988 OUT  150 TC=0,0 
R_RL2         N02992 N02988  150 TC=0,0 
R_RL3         N02996 N02992  150 TC=0,0 
R_RL4         N03000 N02996  100 TC=0,0 
R_RL5         N03109 N03000  100 TC=0,0 
R_RL6         0 N03109  100 TC=0,0 
Q_Q11         N00343 VREF N049661 QBC846B 
R_R6         N05202 N049661  1k TC=0,0 
X_P         N05206 N05678 N05202 POT PARAMS: SET=0.26 VALUE=100
R_R7         0 N05206  51 TC=0,0 
Q_Q12         N00423 N05678 0 QBC846B 
R_R8         N01001 OUT  1k TC=0,0 
R_R9         0 N01005  3.3k TC=0,0 
Q_Q22         N11083 N11083 N11269 QBC846B 
R_Rz3         VREF N10297  5.6k TC=0,0 
D_D2         0 VREF BZX84-C5V6 
R_Rz2         VREF N10297  5.6k TC=0,0 
V_V2         N10297 0 30
R_R22         0 N11275  1k TC=0,0 
R_R17         N10783 N10297  3.3k TC=0,0 
Q_Q20         N10783 VREF N11083 QBC846B 
R_R15         N10521 N10297  220 TC=0,0 
Q_Q16         N10739 N10683 N10527 QBC856B 
Q_Q18         N10683 VREF N10947 QBC846B 
Q_Q15         N10683 N10683 N10521 QBC856B 
Q_Q19         N10739 N10919 N10947 QBC846B 
R_R16         N10527 N10297  220 TC=0,0 
Q_Q23         N10947 N11083 N11275 QBC846B 
R_R21         0 N11269  1k TC=0,0 
V_V3         N10919 0 DC 5.6Vdc AC 1Vac 
R_R23         N10739 0  1000k TC=0,0 
Q_Q9         N00343 N00640 N01311 QMJD31C 
